US05451687
To a 300 ml reaction vessel equipped with a stirrer, thermometer, condenser and a dropping funnel, 50 g of O,O'-di-p-toluoyl-L-tartaric anhydride and 150 g of water were supplied and the mixture was stirred at 90°-95° C. for 1 hour to carry out hydrolysis. After cooling the reaction mixture to 75° C. 0 1 g of seed crystal of O,O'-di-p-toluoyl-L-tartaric acid was added and the mixture was slowly cooled. Since oily product began to crystalize at 73° C., the mixture was stirred for 1 hour at this temperature. After completion of crystallization, the reaction slurry was cooled to room temperature and the crystals were collected by filtration. The thus obtained cake was dried to obtain 32.3 g of O,O'-di-p-toluoyl-L-tartaric acid hydrate in the form of white crystals. The content of crystal water was measured by the Karl Fischer method, which was 4.9% (yield: 58.6%). The crystals were sieved through a 20-mesh sieve and 48 wt % of the crystals passed through the sieve. The amount of the crystals which adhered to the wall or to the stirrer of the reaction apparatus so that which could not be removed from the reaction apparatus was 20.9 g which was 39.3 wt % of the total crystals produced.

reactant | O,O'-di-p-toluoyl-L-tartaric acid | C1(=CC=C(C=C1)C(=O)OC([C@H](O)[C@@H](O)C(=O)OC(=O)C1=CC=C(C=C1)C)=O)C | C20H18O8
solvent | water | 150 g | O | H2O
product | O,O'-di-p-toluoyl-L-tartaric acid hydrate | 32.3 g, yield: 58.6% | O.C1(=CC=C(C=C1)C(=O)OC([C@H](O)[C@@H](O)C(=O)OC(=O)C1=CC=C(C=C1)C)=O)C | InChI=1S/C20H18O8.H2O/c1-11-3-7-13(8-4-11)17(23)27-19(25)15(21)16(22)20(26)28-18(24)14-9-5-12(2)6-10-14;/h3-10,15-16,21-22H,1-2H3;1H2/t15-,16-;/m1./s1
